US08865713B2
Step B: 6-Chloro-5-phenoxy-1H-benzoimidazole.
To a solution of 5-chloro-2-nitro-4-phenoxyphenylamine (0.810 g, 3.06 mmol) in DMF (12 mL) was added trimethylorthoformate (12 mL) followed by sodium dithionite (2.66 g, 15.3 mmol), and glacial acetic acid (1.5 mL). The reaction mixture was heated in a sealed tube at 100° C. for 14 h. Additional sodium dithionite (0.5 g) and acetic acid (1 mL) were added and heating was continued at 120° C. for an additional 3 h. The reaction flask was cooled in ice, added cautiously to half-saturated sodium bicarbonate solution (300 mL) and extracted with EtOAc. Combined organic layers were washed with 5% NaHCO3, brine, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (hexanes:EtOAc, 0% to 5% over 20 minutes) to yield the titled compound as a yellow amorphous solid (0.57 g, 76%) as a mixture of tautomers. MS (ESI/CI): mass calcd. for C13H9ClN2O, 244; m/z found, 245 [M+H]+. 1H NMR (500 MHz, CDCl3): 9.55 (s, 1H), 8.06 (s, 1H), 8.0-7.2 (m, 2H), 7.32 (t, J=7.9 Hz, 2H), 7.09 (t, J=7.3 Hz, 1H), 6.96 (d, J=8.3 Hz, 2H).

reactant | 5-chloro-2-nitro-4-phenoxyphenylamine | 3.06 mmol, 0.810 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])OC1=CC=CC=C1 | C12H9ClN2O3
reactant | trimethylorthoformate | 12 mL | COC(OC)OC | C4H10O3
reactant | sodium dithionite | 15.3 mmol, 2.66 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 0.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-5-phenoxy-1H-benzoimidazole | 0.57 g, 76% | ClC=1C(=CC2=C(NC=N2)C1)OC1=CC=CC=C1 | C13H9ClN2O
